US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 2,5-difluoro-benzyl Ester
2,5-Difluorobenzyl 4-[4-(2-aminoethyl)anilino]-1-piperidinecarboxylate formate (0.609 g, 1.4 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane according to Procedure G to yield the title compound (0.260 g, 0.3 mmol).

reactant | 2,5-Difluorobenzyl 4-[4-(2-aminoethyl)anilino]-1-piperidinecarboxylate formate | 1.4 mmol, 0.609 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)OCC2=C(C=CC(=C2)F)F)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 2,5-difluoro-benzyl Ester | 0.3 mmol, 0.260 g | FC1=C(COC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C(C=C1)F | C30H35F2N3O5
